US07208142B2
2-(3,3-Dimethyl-5-tert-butyl-1-indanylidene)-3-(1′methylcyclohexyl)-3-oxo-propiononitrile
3,3-Dimethyl-5-tert-butyl-1-indanone are reacted with 3-(1′-methylcyclohexyl)-3-oxo-propiononitrile analogously to Example 1.

reactant | 3,3-Dimethyl-5-tert-butyl-1-indanone | CC1(CC(C2=CC=C(C=C12)C(C)(C)C)=O)C | C15H20O
reactant | 3-(1′-methylcyclohexyl)-3-oxo-propiononitrile | CC1(CCCCC1)C(CC#N)=O | C10H15NO
product | 2-(3,3-Dimethyl-5-tert-butyl-1-indanylidene)-3-(1′methylcyclohexyl)-3-oxo-propiononitrile | CC1(CC(C2=CC=C(C=C12)C(C)(C)C)=C(C#N)C(=O)C1(CCCCC1)C)C | C25H33NO
